US08106043B2
4-(2-(1-Methylpyrrolidin-2-yl)ethyl)-7-nitro-3,4-dihydro-2H-benzo[b][1,4]thiazine:
A mixture of 7-nitro-3,4-dihydro-2H-benzo[b][1,4]thiazine (1 g, 5.10 mmol), 2-(2-chloroethyl)-1-methylpyrrolidine hydrochloride (1.876 g, 10.19 mmol), and tetrabutylammonium bromide (0.082 g, 0.255 mmol) in dichloromethane (10 mL) and 50% NaOH solution (10 mL) was stirred at room temperature for 16 hours (overnight). The reaction was then diluted with dichloromethane (5 mL) and water (20 mL), and the mixture was transferred to a separatory funnel. The organic layer was removed, and the aqueous layer was extracted into dichloromethane (2×10 mL). The combined organic layers were dried (Na2SO4), filtered, and concentrated. The red crude material was subjected to column chromatography on silica gel using the Biotage purification system (80 g silicycle column; gradient: dichloromethane 3CV then ramp to 6:94 (2M NH3 in methanol):dichloromethane over 15CV; 254 nm; flow: 45 mL/min) to give the title compound as yellow-orange solid (0.827 g, 52.8%). 1H-NMR (DMSO-d6) δ 7.87 (dd, J=3.0, 9.0 Hz, 1H), 7.83 (d, J=3.0 Hz, 1H), 6.79 (d, J=9.3 Hz, 1H), 3.79-3.76 (m, 2H), 3.46 (t, J=8.1 Hz, 2H), 3.08-3.05 (m, 2H), 2.99-2.92 (m, 1H), 2.23 (s, 3H), 2.10-2.06 (m, 2H), 1.92-1.78 (m, 2H), 1.66-1.61 (m, 2H), 1.54-1.47 (m, 2H); ESI-MS (m/z, %): 308 (MH+, 100).

reactant | 7-nitro-3,4-dihydro-2H-benzo[b][1,4]thiazine | 5.10 mmol, 1 g | [N+](=O)([O-])C=1C=CC2=C(SCCN2)C1 | C8H8N2O2S
reactant | 2-(2-chloroethyl)-1-methylpyrrolidine hydrochloride | 10.19 mmol, 1.876 g | Cl.ClCCC1N(CCC1)C
catalyst | tetrabutylammonium bromide | 0.255 mmol, 0.082 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | NaOH | 10 mL | [OH-].[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | water | 20 mL | O | H2O
product | 4-(2-(1-Methylpyrrolidin-2-yl)ethyl)-7-nitro-3,4-dihydro-2H-benzo[b][1,4]thiazine | 0.827 g, 52.8% | CN1C(CCC1)CCN1C2=C(SCC1)C=C(C=C2)[N+](=O)[O-] | C15H21N3O2S
